US06069158
e) 2-(Ethylamino)-6-pyridylethanol
To a mechanically stirred solution of LiAlH4 in THF(1.0 M, 20 mL, 20.4 mmol) was added dropwise a solution of ethyl 2-(ethylamino)-6-pyridylacetate (1 g, 4.1 mmol) in THF (30 mL). After the addition was completed, the reaction mixture was heated to reflux. After 5 hr, the reaction was cooled to 0° C. and quenched with 10% NaOH solution. The solids were removed by filtration, and the filtrate was concentrated in vacuum. The residue was dissolved in CH2Cl2, and the solution was dried (MgSO4) and concentrated. Reconcentration from toluene (3 x) gave the title compound as a colorless oil: MS (ES) 167 (M+H)+.

reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 2-(ethylamino)-6-pyridylacetate | 4.1 mmol, 1 g | C(C)NC1=NC(=CC=C1)CC(=O)OCC | C11H16N2O2
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | THF | 20.4 mmol, 1.0 M, 20 mL | C1CCOC1 | C4H8O
product | 2-(Ethylamino)-6-pyridylethanol | C(C)NC1=NC(=CC=C1)C(C)O | C9H14N2O
